US09079889B2
Method 1 was followed using methyl 3-amino-6-bromo-5-fluoropicolinate (1.0 equiv.) and 2-fluoro-phenylboronic acid (1.5 equiv.) and Pd(dppf)Cl2-DCM (0.05 equiv.) to give methyl 3-amino-5-fluoro-6-(2-fluorophenyl)picolinate in >99% yield. LC/MS=265.0 (M+H), Rt=0.77 min.

reactant | methyl 3-amino-6-bromo-5-fluoropicolinate | 1.0 equiv. | NC=1C(=NC(=C(C1)F)Br)C(=O)OC | C7H6BrFN2O2
reactant | 2-fluoro-phenylboronic acid | 1.5 equiv. | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | methyl 3-amino-5-fluoro-6-(2-fluorophenyl)picolinate | >99% yield | NC=1C(=NC(=C(C1)F)C1=C(C=CC=C1)F)C(=O)OC | C13H10F2N2O2
